US06548493B1
tert-butyl (±)-cis-2-(2,3-dichlorophenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 90 from tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (124 mg, 0.27 mmol) and corresponding 2,3-dichlorophenylboronic acid (104 mg, 0.54 mmol), to afford after chromatographic purification the title compound (157 mg, 99%) as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.30-7.40 (m, 1H), 7.20 (s, 1H), 7.18 (d, 1H, J=3.6 Hz), 6.99 (s, 1H), 6.94 (s, 1H), 3.80-3.90 (m, 1H), 3.60-3.80 (m, 1H), 3.10-3.50 (m, 7H), 2.80-3.00 (m, 1H), 1.70-1.90 (m, 2H), 1.47 (s, 9H) ppm. MS (CI, NH3): 445 (base, M+H).

reactant | tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 0.27 mmol, 124 mg | BrC=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 2,3-dichlorophenylboronic acid | 0.54 mmol, 104 mg | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
product | tert-butyl (±)-cis-2-(2,3-dichlorophenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | ClC1=C(C=CC=C1Cl)C=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C24H26Cl2N2O2
